* PEX AC testbench (parasitic-extracted error-amplifier)
** sch_path: /foss/designs/2026/tt_sky26b_ldo_andriansyah/xschem/error-amplifier/testbench/tb_ac_pex.sch
**.subckt tb_ac_pex
V2 VN VSS ac -1m dc 0.9
V3 VP VSS ac 1m dc 0.9
V5 VDD1 VSS 1.8
V7 VSS GND 0
C2 OUT VSS 1.5p m=1
C1 OUT2 VSS 1.5p m=1
V1 VCM VSS ac 1m dc 0.9
V4 VDD2 VSS 1.8
C3 OUT3 VSS 1.5p m=1
V6 VDDr VSS DC 1.8 AC 1
L1 OUT3 net1 0.25 m=1
V8 VPR VSS dc 0.9
x1 VDD1 VP   VN   IBIAS1 OUT  VSS error-amplifier_flat
x2 VDD2 VCM  VCM  IBIAS2 OUT2 VSS error-amplifier_flat
x3 VDDr net1 VPR  IBIAS3 OUT3 VSS error-amplifier_flat
x4 VDD3 IBIAS3 VDD3 VREF3 VSS bias-network
x5 VDD2 IBIAS2 VDD2 VREF2 VSS bias-network
x6 VDD1 IBIAS1 VDD1 VREF1 VSS bias-network

**** begin user architecture code

.control
  .temp 27
  op
  ac dec 100 1 100MEG
  save all

  * --- Original Logic ---
  let vd = v(vp) - v(vn)
  let Av = db( v(OUT) / vd)
  let phase = 180*cph( v(OUT) )/pi

  * --- New Measurement Snippet ---
  * We use the 'Av' and 'phase' vectors created above
  meas ac f_0db when Av = 0
  meas ac phase_at_unity find phase when Av = 0

  * Note: p_total needs a definition to be plotted
  * Assuming p_total is VDD * Total Current:
  let p_total = v(vdd) * i(Vdd)

  * --- Original CMRR & PSRR calculation ---
  let Acm = db( v(OUT2)/vcm)
  let cmrr = Av - Acm
  let psrr = -20*log10(OUT3)

  * --- Output ---
  print f_0db phase_at_unity
  plot psrr
  plot av
  plot acm
  plot cmrr
  plot phase
  plot p_total
.endc


** opencircuitdesign pdks install
.lib /foss/pdks/sky130A/libs.tech/combined/sky130.lib.spice ss

** PEX (parasitic) subcircuit for the error amplifier
.include /foss/designs/2026/tt_sky26b_ldo_andriansyah/xschem/error-amplifier/layout/error-amplifier_flat.spice

**** end user architecture code
**.ends


* expanding   symbol:  /foss/designs/2026/tt_sky26b_ldo_andriansyah/xschem/bias-net/schematics/bias-network.sym # of pins=5
** sym_path: /foss/designs/2026/tt_sky26b_ldo_andriansyah/xschem/bias-net/schematics/bias-network.sym
** sch_path: /foss/designs/2026/tt_sky26b_ldo_andriansyah/xschem/bias-net/schematics/bias-network.sch
.subckt bias-network VDD IBIAS1 IBIAS2 VREF VSS
*.iopin VDD
*.iopin VSS
*.opin IBIAS1
*.opin IBIAS2
*.opin VREF
XM2 VREF VREF VSS VSS sky130_fd_pr__nfet_01v8 L=2 W=3 nf=4 ad='int((nf+1)/2) * W/nf * 0.29' as='int((nf+2)/2) * W/nf * 0.29' pd='2*int((nf+1)/2) * (W/nf + 0.29)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.29)' nrd='0.29 / W' nrs='0.29 / W' sa=0 sb=0 sd=0 mult=2 m=2
XR1 VREF net1 VSS sky130_fd_pr__res_xhigh_po_0p69 L=6.9 mult=1 m=1
XR2 net2 net1 VSS sky130_fd_pr__res_xhigh_po_0p69 L=6.9 mult=1 m=1
XR3 net2 net3 VSS sky130_fd_pr__res_xhigh_po_0p69 L=6.9 mult=1 m=1
XR4 net4 net3 VSS sky130_fd_pr__res_xhigh_po_0p69 L=6.9 mult=1 m=1
XR5 net4 net5 VSS sky130_fd_pr__res_xhigh_po_0p69 L=6.9 mult=1 m=1
XR6 net9 net10 VSS sky130_fd_pr__res_xhigh_po_0p69 L=6.9 mult=1 m=1
XR7 net9 net8 VSS sky130_fd_pr__res_xhigh_po_0p69 L=6.9 mult=1 m=1
XR8 net7 net8 VSS sky130_fd_pr__res_xhigh_po_0p69 L=6.9 mult=1 m=1
XR9 net7 net6 VSS sky130_fd_pr__res_xhigh_po_0p69 L=6.9 mult=1 m=1
XR10 net5 net6 VSS sky130_fd_pr__res_xhigh_po_0p69 L=6.9 mult=1 m=1
XM1 IBIAS1 VREF VSS VSS sky130_fd_pr__nfet_01v8 L=2 W=3 nf=4 ad='int((nf+1)/2) * W/nf * 0.29' as='int((nf+2)/2) * W/nf * 0.29' pd='2*int((nf+1)/2) * (W/nf + 0.29)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.29)' nrd='0.29 / W' nrs='0.29 / W' sa=0 sb=0 sd=0 mult=2 m=2
XM3 IBIAS2 VREF VSS VSS sky130_fd_pr__nfet_01v8 L=2 W=3 nf=4 ad='int((nf+1)/2) * W/nf * 0.29' as='int((nf+2)/2) * W/nf * 0.29' pd='2*int((nf+1)/2) * (W/nf + 0.29)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.29)' nrd='0.29 / W' nrs='0.29 / W' sa=0 sb=0 sd=0 mult=2 m=2
XR11 net10 net11 VSS sky130_fd_pr__res_xhigh_po_0p69 L=6.9 mult=1 m=1
XR12 net12 net11 VSS sky130_fd_pr__res_xhigh_po_0p69 L=6.9 mult=1 m=1
XR13 net12 net13 VSS sky130_fd_pr__res_xhigh_po_0p69 L=6.9 mult=1 m=1
XR14 net14 net13 VSS sky130_fd_pr__res_xhigh_po_0p69 L=6.9 mult=1 m=1
XR15 net14 net15 VSS sky130_fd_pr__res_xhigh_po_0p69 L=6.9 mult=1 m=1
XR16 net19 VDD VSS sky130_fd_pr__res_xhigh_po_0p69 L=6.9 mult=1 m=1
XR17 net19 net18 VSS sky130_fd_pr__res_xhigh_po_0p69 L=6.9 mult=1 m=1
XR18 net17 net18 VSS sky130_fd_pr__res_xhigh_po_0p69 L=6.9 mult=1 m=1
XR19 net17 net16 VSS sky130_fd_pr__res_xhigh_po_0p69 L=6.9 mult=1 m=1
XR20 net15 net16 VSS sky130_fd_pr__res_xhigh_po_0p69 L=6.9 mult=1 m=1
XR21 VSS VSS VSS sky130_fd_pr__res_xhigh_po_0p69 L=6.9 mult=1 m=1
XR22 VSS VSS VSS sky130_fd_pr__res_xhigh_po_0p69 L=6.9 mult=1 m=1
.ends

.GLOBAL GND
.end
